US07456210B2
(R)-4-Acetyl-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one
(R)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methoxy-methyl-amide (0.050 g, 0.143 mmol) was dissolved under argon in tetrahydrofurane (1 ml) and methyl magnesium bromide (0.188 mmol, 0.063 ml) was added at 0° C. The resulting solution was stirred at 0° C. for two hours. Water was added at 0° C. and the mixture was stirred for one hour. Extraction with ethyl acetate gave a residue which after chromatography on silica gel using a 9:1-mixture of ethyl acetate and cyclohexane as the eluent yielded 0.040 g (91% of theory) of the title compound as a white solid. MS: m/e=328.4 (M+H)+.

reactant | (R)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methoxy-methyl-amide | 0.143 mmol, 0.050 g | CON(C(=O)[C@H]1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)C | C20H21FN2O4
reactant | methyl magnesium bromide | 0.188 mmol, 0.063 ml | C[Mg]Br
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | (R)-4-Acetyl-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one | C(C)(=O)[C@@H]1CC(N(C1)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | C19H18FNO3
